US05589478
A mixture of 4-tert-butyl-N-[6-{2-(6-chloropyridazin-3-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide (150 mg), 10% palladium-carbon (30 mg), triethylamine (52 mg), methanol (8 ml) and tetrahydrofuran (6 ml) is stirred at room temperature for five hours under hydrogen atmosphere (1 atm), and the mixture is filtered to remove the catalyst. The filtrate is concentrated to dryness under reduced pressure. The residue is treated with aqueous citric acid solution, and extracted with chloroform. The extract is washed, dried and evaporated to remove the solvent. The residue is recrystallized from ethyl acetate/diisopropyl ether to give 4-tert-butyl-N-[5-(3-methoxyphenoxy)-6-{2-(pyridazin-3-yloxy)ethoxy}pyrimidin-4-yl]benzenesulfonamide (111 mg) as crystals.

reactant | 4-tert-butyl-N-[6-{2-(6-chloropyridazin-3-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide | 150 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC=1N=NC(=CC1)Cl | C27H28ClN5O6S
reactant | triethylamine | 52 mg | C(C)N(CC)CC | C6H15N
reactant | methanol | 8 ml | CO | CH4O
catalyst | palladium-carbon | 30 mg | [C].[Pd]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-tert-butyl-N-[5-(3-methoxyphenoxy)-6-{2-(pyridazin-3-yloxy)ethoxy}pyrimidin-4-yl]benzenesulfonamide | 111 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC=1N=NC=CC1 | C27H29N5O6S
